US07449475B2
1′-Benzyl-5-chloro-3H-spiro[2-benzofuran-1,4′-piperidin]-3-one
To a solution of 2-bromo-5-chlorobenzoic acid (2.35 g, 10.0 mmol) in tetrahydrofuran (THF) (15 mL) was added, a 1.6 M solution in hexane, n-butyllithium (20 mL, 32.0 mmol) slowly at −78° C. under nitrogen. After addition was complete the reaction mixture was kept on stirring at −78° C. for 3 h. Then a solution of 1-benzylpiperidin-4-one (3.78 g, 20.0 mmol) in THF (10 mL) was added slowly to the reaction mixture at −78° C. After addition was complete the reaction temperature was raised to room temperature and the reaction mixture was kept on stirring at room temperature overnight. The reaction mixture was poured into a mixture of water (60 mL) and diethyl ether (60 mL), layers were separated. The aqueous layer was extracted with diethyl ether (2×20 mL). The aqueous layer was acidified with aqueous 6M hydrochloric acid (HCl) to pH 2 and boiled for 1 h, cooled to 0° C., pH was adjusted to 10.0 by addition of aqueous sodium hydroxide (NaOH) (6M) and rapidly extracted with trichloromethane (CHCl3). The organic layer was washed with water, dried over sodium sulphate (Na2SO4), filtered and concentrated in vacuo to give the subtitled compound (1.22 g) and it was pure enough for the next step.

reactant | 2-bromo-5-chlorobenzoic acid | 10.0 mmol, 2.35 g | BrC1=C(C(=O)O)C=C(C=C1)Cl | C7H4BrClO2
reactant | n-butyllithium | 32.0 mmol, 20 mL | C(CCC)[Li]
reactant | 1-benzylpiperidin-4-one | 20.0 mmol, 3.78 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | water | 60 mL | O | H2O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 10 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | 60 mL | C(C)OCC | C4H10O
product | 1′-Benzyl-5-chloro-3H-spiro[2-benzofuran-1,4′-piperidin]-3-one | 1.22 g | C(C1=CC=CC=C1)N1CCC2(CC1)OC(C1=C2C=CC(=C1)Cl)=O | C19H18ClNO2
